US07622579B2
(1-Biphenyl-3-yl-piperidin-4-yl)-morpholin-4-yl-methanone
The title compound was prepared from commercially available ethyl isonipecotate, m-biphenyl bromide as the aryl halide, and morpholine as the secondary amine utilizing general procedures A and B described above. 1H NMR (300 MHz, CDCl3) δ 7.59-7.30 (m, 6H), 7.14 (t, J=2.0 Hz, 1H), 7.07 (d, J=7.7 Hz, 1H), 6.94 (dd, J=2.0, 7.6 Hz, 1H), 3.85 (m, 1H), 3.80 (m, 1H), 3.63-3.55 (m, 8H), 2.80 (dt, J=2.6, 12.2 Hz, 2H), 2.60 (tt, J=2.8, 11.4 Hz, 1H), 2.07 (dd, J=3.8, 12.8 Hz, 1H), 2.01 (dd, J=4.0, 12.0 Hz, 1H), 1.85 (m, 1H), 1.81 (m, 1H). ESI MS: 351.4 (MH+).

reactant | ethyl isonipecotate | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | m-biphenyl bromide | [Br-].C1(=CC=CC=C1)C1=CC=CC=C1
reactant | morpholine | N1CCOCC1 | C4H9NO
product | (1-Biphenyl-3-yl-piperidin-4-yl)-morpholin-4-yl-methanone | C1(=CC(=CC=C1)N1CCC(CC1)C(=O)N1CCOCC1)C1=CC=CC=C1 | C22H26N2O2
